US07741520B2
2-Hexyloxy-4-nitroaniline (8).
General Procedure for the Preparation of the base compound and Compounds 9-16. NaH (95% powder, 0.265 g, 10.5 mmol, 3.5 equiv) was added to a solution of alkyl instituted 2-amino-5-nitrophenol (3.0 mmol) in anhydrous DMF (8 mL) at room temperature. After being stirred at the same temperature for 30 min, MsCl (1.031 g, 9.0 mmol, 3 equiv) was added to the mixture, and the stirring was continued overnight at room temperature. H2O was added to the mixture, and then it was neutralized with 5 N HCl until pH=1-2. The intermediate precipitated as a yellow solid. It was collected by filtration and washed with H2O, which was used to the next reaction without further purification. The intermediate was added to a 3 N NaOH aq solution and was stirred at 80-90° C. overnight. After being cooled, it was neutralized with 5 N HCl until pH=1-2. The precipitated solid was collected and washed with H2O and cold ether to provide the desired product, and then it was recrystallized from ethyl acetate/hexane.

reactant | NaH | 10.5 mmol, 0.265 g, 3.5 equiv | [H-].[Na+]
reactant | 2-amino-5-nitrophenol | 3.0 mmol | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | MsCl | 9.0 mmol, 1.031 g, 3 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 5 N | Cl | ClH
reactant | NaOH | 3 N | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-Hexyloxy-4-nitroaniline | C(CCCCC)OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C12H18N2O3
